US09108969B2
Step D: Preparation of 2-(7-(3-Chloro-4-(1,3-difluoropropan-2-yloxy)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid
From tert-butyl 2-(7-hydroxy-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate and 2-chloro-4-(chloromethyl)-1-(1,3-difluoropropan-2-yloxy)benzene, the title compound was prepared using a similar method to the one described in Example 1.48, Step B. LCMS m/z=450.1 [M+H]+; 114 NMR (400 MHz, CDCl3) δ ppm 2.27-2.36 (m, 1H), 2.67 (dd, J=16.4, 8.4 Hz, 1H), 2.87-2.97 (m, 2H), 3.75 (quintet, J=7.4 Hz, 1H), 3.98-4.05 (m, 1H), 4.15 (ddd, J=9.9, 8.6, 4.1 Hz, 1H), 4.56-4.69 (m, 3H), 4.75-4.78 (m, 2H), 5.00 (s, 2H), 6.12 (s, 1H), 6.86 (dd, J=8.7, 2.4 Hz, 1H), 7.06-7.09 (m, 2H), 7.14 (d, J=8.7 Hz, 1H), 7.31 (dd, J=8.4, 2.1 Hz, 1H), 7.51 (d, dr=2.1 Hz, 1H).

reactant | tert-butyl 2-(7-hydroxy-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | OC1=CC=2C=C3N(C2C=C1)CCC3CC(=O)OC(C)(C)C | C17H21NO3
reactant | 2-chloro-4-(chloromethyl)-1-(1,3-difluoropropan-2-yloxy)benzene | ClC1=C(C=CC(=C1)CCl)OC(CF)CF | C10H10Cl2F2O
product | 2-(7-(3-Chloro-4-(1,3-difluoropropan-2-yloxy)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid | ClC=1C=C(COC2=CC=3C=C4N(C3C=C2)CCC4CC(=O)O)C=CC1OC(CF)CF | C23H22ClF2NO4
